US07642264B2
2-(3-Bromo-phenyl)-4-(4-chloro-3-methyl-phenyl)-6-methyl-pyrimidine
The title compound was prepared from 2-chloro-4-(4-chloro-3-methyl-phenyl)-6-methyl-pyrimidine (example A.47) (3.84 g, 15.2 mmol) and commercially available 3-bromo-benzene-boronic acid (3.2 g, 15.9 mmol) according to the general procedure IVb. Obtained as a white solid (2.87 g, 51%). MS (ISP) 375.1 [(M+H)+]; mp 108° C.

reactant | 2-chloro-4-(4-chloro-3-methyl-phenyl)-6-methyl-pyrimidine | 15.2 mmol, 3.84 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)C)C | C12H10Cl2N2
reactant | 3-bromo-benzene-boronic acid | 15.9 mmol, 3.2 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(4-chloro-3-methyl-phenyl)-6-methyl-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)C)C | C18H14BrClN2
